US05093364
A mixture of acetyl chloride (4.6 ml) and 4-fluoroanthranilic acid (5 g) in acetic anhydride (100 ml) was heated under reflux for 48 hours, cooled and filtered. The filtrate was added to ice/water, stirred for 1 hour and extracted with ethyl acetate. The extract was dried and the solvent removed under reduced pressure to give 7-fluoro-2-methyl-3,1-benzoxazin-4-one, m.p. 159°-160°. (Compound 2).

reactant | acetyl chloride | 4.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-fluoroanthranilic acid | 5 g | FC=1C=C(C(C(=O)O)=CC1)N | C7H6FNO2
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-fluoro-2-methyl-3,1-benzoxazin-4-one | FC1=CC2=C(C(OC(=N2)C)=O)C=C1 | C9H6FNO2
